US08492560B2
A solution of 7-(2-(1-tertbutoxycarbonylpiperidin-4-yl)ethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (10.5 g, 20 mmol) in methylene chloride (100 ml) containing TPA (25 ml) was stirred for 1 hour at ambient temperature. Water (50 ml) and methylene chloride (100 ml) were added and the pH of the aqueous layer was adjusted to 8 with solid sodium hydrogen carbonate. The organic layer was separated, washed with water, brine, dried (MgSO4) and evaporated. The residue was triturated with ether and the solid was filtered and dried under vacuum to give 7-(2-(piperidin-4-yl)ethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (8.3 g, 100%).

reactant | 7-(2-(1-tertbutoxycarbonylpiperidin-4-yl)ethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 20 mmol, 10.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C27H39N3O7
reactant | Water | 50 ml | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-(2-(piperidin-4-yl)ethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 8.3 g, 100% | N1CCC(CC1)CCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C22H31N3O5
